US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 6-bromochroman-4-carboxylic acid (0.54 g) and [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine (0.57 g) as starting materials, 6-bromo-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)chroman-4-carboxamide (0.52 g) was obtained.

reactant | 6-bromochroman-4-carboxylic acid | 0.54 g | BrC=1C=C2C(CCOC2=CC1)C(=O)O | C10H9BrO3
reactant | [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine | 0.57 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C)C | C18H24N2
product | 6-bromo-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)chroman-4-carboxamide | 0.52 g | BrC=1C=C2C(CCOC2=CC1)C(=O)N(C1=CC=C(C=C1)C(C)C)CC1=CC=C(C=C1)N(C)C | C28H31BrN2O2
